2155-09-30 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2155-9-29**] 03:30 PM
   - UGI showed no esophageal perforation.  Thoracic has signed off and
   will page with questions. [**Location (un) 5371**] [**Numeric Identifier 9902**]
   - Social work consulted
   - Levo and Azithro for PNA
   Did SBT this am and pt was too agitated so now back to Propofol 100 and
   Fentanyl
   Allergies:
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2155-9-29**] 04:00 PM
   Vancomycin - [**2155-9-29**] 08:30 PM
   Levofloxacin - [**2155-9-30**] 12:45 AM
   Ampicillin - [**2155-9-30**] 04:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2155-9-29**] 12:08 PM
   Fentanyl - [**2155-9-29**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2155-9-30**] 04:00 AM
   Propofol - [**2155-9-30**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-30**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 66 (52 - 90) bpm
   BP: 127/73(95) {97/55(69) - 178/114(143)} mmHg
   RR: 17 (15 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.5 kg (admission): 59.5 kg
   Height: 64 Inch
             Total In:
                                                                 10,976 mL
                                                                    492 mL
   PO:
             TF:
   IVF:
                                                                  5,176 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  5,605 mL
                                                                    405 mL
   Urine:
                                                                  2,605 mL
                                                                    405 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  5,371 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 92%
   ABG: 7.38/46/165/27/1
   Ve: 10.1 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   11.4 g/dL
   134 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   10 mg/dL
   108 mEq/L
   142 mEq/L   all normal
   35.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2155-9-29**]  04:10 AM
                             [**2155-9-29**]  05:14 AM
                             [**2155-9-29**]  06:41 AM
                             [**2155-9-29**]  04:29 PM
                             [**2155-9-29**]  10:39 PM
                            [**2155-9-30**]  04:05 AM
                            [**2155-9-30**]  04:21 AM
   WBC
   9.5
   11.0
   12.2 trending up
   Hct
   35.4
   34.6
   35.0 stable
   Plt
   168
   147
   160  stable
   Cr
   0.6
   0.6
   0.7
   TropT
   <0.01
   TCO2
   26
   22
   25
   28
   Glucose
   77
   97
   134
   Other labs: PT / PTT / INR:12.8/31.1/1.1   yesterday , CK / CKMB /
   Troponin-T:182/5/<0.01, ALT / AST:86/183   trending down , Alk Phos / T
   Bili:103/0.6   stable , Differential-Neuts:93.0 %, Lymph:5.2 %,
   Mono:1.7 %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:337 IU/L, Ca++:7.8 mg/dL   all normal , Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Fluid analysis / Other labs: LDH 337, down from  617
   CE negative x1
   Alb 3.0
   lactate trended down 0.8 yesterday
   Imaging: Barium esophagram
   FINDINGS: A previously placed nasogastric tube was slightly retracted
   about
   to the level where the side hole of the tube was located in the mid
   esophagus.
   Subsequently, barium was injected and the esophagus was filled with
   barium
   about from the carina to the GE junction. There was no evidence of
   leak.
   Subsequently, the nasogastric tube was further retracted with the side
   hole
   about at the level of the thoracic inlet. Barium was again injected and
   the
   more proximal portion of the esophagus was demonstrated. There was no
   evidence of stricture or leak. Barium passed freely through the GE
   junction
   into the stomach.
   At the end of the exam the nasogastric tube was again advanced beyond
   the GE
   junction into the stomach with its tip ending in the gastric antrum.
   This
   location was confirmed by contrast injection.
   IMPRESSION: There is no evidence of leak or stricture in the evaluated
   part
   of the esophagus (from the thoracic inlet to the GE junction).
   [**9-29**] CT neck with contrast final read pending
   [**9-29**] CT chest
   Wet read: Mild sub q air and air likely in the braachiocephalic vein.
   No
   definite tracheal injury but close f/u recommended. Bilat lower lobe
   consolidatio/aspiration. No PTX
   No CXR this am
   Microbiology: [**9-29**] BCx negative x2 to date
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALCOHOL ABUSE
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan:
   49F with unknown PMH, presenting after being found down with +EtOH on
   board.  Intubated for airway protection.  Now with ?tracheal/esophageal
   perforation.
   # Obtundation.  +high EtOH level in ED.  No other known ingestions, but
   found with "drug paraphenalia" (further details unknown).  Seems to be
   waking up in MICU, requiring increased sedation to keep calm.
   - plan to continue sedation as is until ?perforation cleared by
   thoracic surgery and decision re: ?intervention.
   - Check LFTs.
   # Respiratory failure.  Now s/p intubation more for airway protection,
   though was noted to drop sats into 80s for unclear reasons
   (?hypoventilating from delta MS).  Doing well on AC thus far.
   - A line and ABG, wean FiO2 as able.
   - Anticipate sedation wean and eventual extubation once able to
   extubate per thoracic surgery.
   # ?Tracheal/esophageal perforation vs. allergic reaction.  Per ED team
   ?traumatic intubation vs. patient agitiation with tube in place, vs.
   nontraumatic allergic reaction (has seemed to respond somewhat to
   antihistamines.
   - f/u final read of pan-CT.
   - thoracics following.
   - per thoracics, plan for CT esophagram plus likely bronchoscopy and
   possibly EGD pending the above.
   - Treat possible allergic reaction with diphenhydramine, H2 blockers,
   solumedrol IV.
   # Hypotension.  Intermittently in the ED and in the MICU, particularly
   after getting fentanyl.  Not tachycardic.  UOP good.  However, now with
   some increased lactates.  Sedated and BP seems to respond poorly to
   sedating meds in general.  Also consider allergic
   vasodilation/anaphylaxis.  Now requiring very low dose phenylephrine.
   - Give 1 L NS now given rising lactates; attempt to wean phenylephrine
   as tolerated.
   - Repeat lactate.
   - Check blood cultures.  Urinalysis negative.  Other infectious workup
   as clinical picture dictates.
   - Trend UOP (has been good so far).
   - Coverage of ?aspiration pneumonia as below.
   - Aline placeed.  Now ABPs more elevated than NIBPs.
   # Pulmonary consolidations.  Bibasilar.  Most likely aspiration
   pneumonia, vs. atelectasis, vs. CAP.
   --Vanc, Unasyn, Levo
   # EtOH abuse.  Presumed given very elevated levels.  Appears to have
   hepatomegaly on exam.
   - SW consult when appropriate.
   - Check LFTs.
   - IV thiamine, folate, MVI.
   # Abnormal abdominal CT.  Per rads changes very minimal and may not be
   present in final read.  Does not have surgical abdomen currently.
   - followup final read.
   # Sacroileitis.  ?chronic per rads.  Unclear medical history.
   - Collateral information.
   FEN: IVF, replete electrolytes, NPO for now
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals
   Code:  Full (presumed)
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-9-29**] 02:21 AM
   Multi Lumen - [**2155-9-29**] 04:08 AM
   Arterial Line - [**2155-9-29**] 06:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-10-01 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - sputum culture
   - CXR: (my read) increased fullness in R hilum and R lower lobe
   - lasix 10mg and follow-up I/O: 5pm 800cc's negative, so given another
   10mg IV at 530p, made good urine after
   - stopped benadryl and steroids
   - if agitated when weaning propofol, consider haldol or precedex or
   valium --> pharm recs: try Seroquel first as will have less QT
   prolongation
   - At 70mcg/hr of propofol, still very active --> may need to try
   extubation
   - social work - no home or family information could be found
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2155-9-30**] 04:30 AM
   Vancomycin - [**2155-9-30**] 08:09 PM
   Levofloxacin - [**2155-10-1**] 12:23 AM
   Ampicillin/Sulbactam (Unasyn) - [**2155-10-1**] 04:52 AM
   Infusions:
   Propofol - 90 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2155-9-30**] 02:17 PM
   Heparin Sodium (Prophylaxis) - [**2155-9-30**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-1**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 76 (51 - 76) bpm
   BP: 121/78(98) {95/59(74) - 135/82(102)} mmHg
   RR: 20 (15 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.5 kg (admission): 59.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,583 mL
                                                                    528 mL
   PO:
             TF:
   IVF:
                                                                  1,583 mL
                                                                    528 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    440 mL
   Urine:
                                                                  2,305 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -722 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 96%
   ABG: 7.50/37/94.[**Numeric Identifier 299**]/29/4
   Ve: 7.1 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Unresponsive to verbal or tactile stimuli. No crepitus around neck or
   thorax. Lungs with upper airway ventilation sounds. Heart benign,
   abdomen benign. No BLE edema
   Labs / Radiology
   140 K/uL
   10.8 g/dL
   93 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   11 mg/dL
   110 mEq/L
   145 mEq/L
   31.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2155-9-29**]  04:10 AM
                             [**2155-9-29**]  05:14 AM
                             [**2155-9-29**]  06:41 AM
                             [**2155-9-29**]  04:29 PM
                             [**2155-9-29**]  10:39 PM
                            [**2155-9-30**]  04:05 AM
                            [**2155-9-30**]  04:21 AM
                            [**2155-10-1**]  02:59 AM
                            [**2155-10-1**]  04:40 AM
   WBC
   9.5
   11.0
   12.2
   8.7
   Hct
   35.4
   34.6
   35.0
   31.1
   Plt
   168
   147
   160
   140
   Cr
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   TCO2
   26
   22
   25
   28
   30
   Glucose
   77
   97
   134
   93
   Other labs: PT / PTT / INR:12.8/31.1/1.1, CK / CKMB /
   Troponin-T:182/5/<0.01, ALT / AST:64/110, Alk Phos / T Bili:96/0.3,
   Amylase / Lipase:18/21, Differential-Neuts:93.0 %, Lymph:5.2 %,
   Mono:1.7 %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:337 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR: improvement in R base opacity
   Microbiology: [**9-29**] blood cx: pending
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALCOHOL ABUSE
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   49F with unknown PMH, presenting after being found down with +EtOH on
   board.  Intubated for airway protection and concern for airway
   trauma/esophageal rupture that has been ruled out by imaging. Continues
   to be agitated when sedation weaned.
   # Respiratory failure.  Patient was transferred successfully to CPAP,
   but would not tolerate an SBT without significant agitation.  She was
   extubated and appeared to be doing well at the time of rounds, though
   still requiring significant O2.  She is still several liters positive
   for her length of stay and may require further diuresis.
   - Will get CXR today.
   - 20mg IV lasix, goal 1-2L negative today.
   - Continue to follow O2 requirements off of O2.
   - treat possible pneumonia as below.
   # Altered mental status.  +high EtOH level in ED, while intubated has
   required large amounts of sedation.  We are trying precedex to allow
   weaning off of Haldol without much success.  Should be able to lift
   sedation now that she is extubated.  Then plan will be haldol if she
   has symptoms of delirium or ativan for simple agitation.
   - PRN delirium or ativan.
   - f/u status once sedation has completely cleared.
   # Pulmonary consolidations.  Bibasilar.  Most likely aspiration
   pneumonia, vs. atelectasis, vs. CAP.  Sputum this morning showed PMNs
   on stain but no organisms.  Cultures all negative to date.
   --Continue with Vanc and Levo, today is day 3.  Can stop Unasyn.  Plan
   for 7 day course.
   # Transaminitis: consistent with alcohol abuse.  Does not need work-up
   in this setting as patient is asymptomatic.  We will trend LFTs as they
   should be improving.
   # EtOH abuse.  Presumed given very elevated levels.  Appears to have
   hepatomegaly on exam.  Social work has been unable to locate any social
   supports to date.  They will continue to work with her.
   - IV thiamine, folate, MVI.
   FEN: IVF, replete electrolytes.  If she can swallow can restart diet
   today.
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals, a-line and femoral line.  Femoral line should come
   out today.
   Code:  Full (presumed)
   Communication: Patient
   Disposition: if stable now that extubated, can go to the floor or home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-9-29**] 02:21 AM
   Multi Lumen - [**2155-9-29**] 04:08 AM
   Arterial Line - [**2155-9-29**] 06:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-10-02 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2155-10-1**] 10:03 AM
 MULTI LUMEN - STOP [**2155-10-2**] 05:00 AM
 ARTERIAL LINE - STOP [**2155-10-2**] 05:00 AM
   - patient extubated.
   - patient threatening to leave AMA.  Denies that she would have any
   trouble if she left immediately, saying she wants to go to [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 6122**] house to get care there, very agitated, pulling off leads.
   Does not appear to have capacity to make decision to leave.  Her
   agitation improved with 2mg of ativan.
   - Patient was persistently hypoxic for unclear reasons.  Repeat CXR was
   unchanged.
   - Not willing to work with SW, so we still have no information about
   where she's from, etc.
   - Did not want to work with nurse psychiatrist.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2155-9-30**] 04:30 AM
   Vancomycin - [**2155-10-1**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2155-10-1**] 09:26 PM
   Levofloxacin - [**2155-10-2**] 12:11 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2155-10-1**] 10:15 AM
   Haloperidol (Haldol) - [**2155-10-1**] 11:50 AM
   Heparin Sodium (Prophylaxis) - [**2155-10-1**] 09:30 PM
   Lorazepam (Ativan) - [**2155-10-2**] 06:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 79 (59 - 105) bpm
   BP: 144/106(115) {98/54(64) - 154/106(115)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.5 kg (admission): 59.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,430 mL
                                                                    774 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  2,430 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  5,215 mL
                                                                    265 mL
   Urine:
                                                                  5,215 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,785 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 80%
   SpO2: 96%
   ABG: 7.54/37/88/30/8    YESTERDAY 7P
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   11.8 g/dL
   92 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   6 mg/dL
   104 mEq/L
   140 mEq/L
   34.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2155-9-29**]  04:29 PM
                             [**2155-9-29**]  10:39 PM
                            [**2155-9-30**]  04:05 AM
                            [**2155-9-30**]  04:21 AM
                            [**2155-10-1**]  02:59 AM
                            [**2155-10-1**]  04:40 AM
                            [**2155-10-1**]  11:19 AM
                            [**2155-10-1**]  02:04 PM
                            [**2155-10-1**]  06:47 PM
                            [**2155-10-2**]  03:08 AM
   WBC
   11.0
   12.2
   8.7
   6.3  trending down
   Hct
   34.6
   35.0
   31.1
   34.1  stable
   Plt
   147
   160
   140
   142  stable
   Cr
   0.6
   0.7
   0.6
   0.5
   TCO2
   25
   28
   30
   30
   32
   33
   Glucose
   97
   134
   93
   92
   Other labs: PT / PTT / INR:12.8/31.1/1.1   OLD , CK / CKMB /
   Troponin-T:182/5/<0.01, ALT / AST:64/110    TRENDING DOWN AND 2:1
   RATIO, Alk Phos / T Bili:96/0.3   this am , Amylase / Lipase:18/21,
   Differential-Neuts:93.0 %, Lymph:5.2 %, Mono:1.7 %, Eos:0.1 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:337 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: [**10-1**] CXR wet read
   Increased linear hazy opacity in right lung base could represent
   developing
   infection or atelectasis.
   Microbiology: [**10-1**] SPUTUM negative
   BCx negative to date
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALCOHOL ABUSE
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   49F with unknown PMH, presenting after being found down with +EtOH on
   board.  Intubated for airway protection and concern for airway
   trauma/esophageal rupture that has been ruled out by imaging. Continues
   to be agitated when sedation weaned.
   # Respiratory failure.  Patient was transferred successfully to CPAP,
   but would not tolerate an SBT without significant agitation.  She was
   extubated and appeared to be doing well at the time of rounds, though
   still requiring significant O2.  She is still several liters positive
   for her length of stay and may require further diuresis.
   - Will get CXR today.
   - 20mg IV lasix, goal 1-2L negative today.
   - Continue to follow O2 requirements off of O2.
   - treat possible pneumonia as below.
    # Altered mental status.  +high EtOH level in ED, while intubated has
   required large amounts of sedation.  We are trying precedex to allow
   weaning off of Haldol without much success.  Should be able to lift
   sedation now that she is extubated.  Then plan will be haldol if she
   has symptoms of delirium or ativan for simple agitation.
   - PRN delirium or ativan.
   - f/u status once sedation has completely cleared.
   # Pulmonary consolidations.  Bibasilar.  Most likely aspiration
   pneumonia, vs. atelectasis, vs. CAP.  Sputum this morning showed PMNs
   on stain but no organisms.  Cultures all negative to date.
   --Continue with Vanc and Levo, today is day 3.  Can stop Unasyn.  Plan
   for 7 day course.
   # Transaminitis: consistent with alcohol abuse.  Does not need work-up
   in this setting as patient is asymptomatic.  We will trend LFTs as they
   should be improving.
   # EtOH abuse.  Presumed given very elevated levels.  Appears to have
   hepatomegaly on exam.  Social work has been unable to locate any social
   supports to date.  They will continue to work with her.
   - IV thiamine, folate, MVI.
   FEN: IVF, replete electrolytes.  If she can swallow can restart diet
   today.
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals, a-line and femoral line.  Femoral line should come
   out today.
   Code:  Full (presumed)
   Communication: Patient
   Disposition: if stable now that extubated, can go to the floor or home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-9-29**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2155-10-02 12:46:00 Physician Attending Progress Note
Chief Complaint: EtOH intoxication, Traumatic intubation (now
   extubated)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt requesting to leave the hospital - seen by psychiatry to assess
   capacity
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2155-10-1**] 10:03 AM
 MULTI LUMEN - STOP [**2155-10-2**] 05:00 AM
 ARTERIAL LINE - STOP [**2155-10-2**] 05:00 AM
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2155-9-30**] 04:30 AM
   Levofloxacin - [**2155-10-2**] 12:11 AM
   Vancomycin - [**2155-10-2**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2155-10-2**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-10-1**] 09:30 PM
   Lorazepam (Ativan) - [**2155-10-2**] 06:46 AM
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2155-10-2**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 116 (62 - 116) bpm
   BP: 104/63(72) {98/54(64) - 154/106(115)} mmHg
   RR: 25 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.5 kg (admission): 59.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,430 mL
                                                                  1,348 mL
   PO:
             300 mL
   TF:
   IVF:
                                                                  2,430 mL
                                                                  1,048 mL
   Blood products:
   Total out:
                                                                  5,215 mL
                                                                    545 mL
   Urine:
                                                                  5,215 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,785 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.54/37/87.[**Numeric Identifier 7**]/30/8
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   11.8 g/dL
   142 K/uL
   92 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   6 mg/dL
   104 mEq/L
   140 mEq/L
   34.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2155-9-29**]  04:29 PM
                             [**2155-9-29**]  10:39 PM
                            [**2155-9-30**]  04:05 AM
                            [**2155-9-30**]  04:21 AM
                            [**2155-10-1**]  02:59 AM
                            [**2155-10-1**]  04:40 AM
                            [**2155-10-1**]  11:19 AM
                            [**2155-10-1**]  02:04 PM
                            [**2155-10-1**]  06:47 PM
                            [**2155-10-2**]  03:08 AM
   WBC
   11.0
   12.2
   8.7
   6.3
   Hct
   34.6
   35.0
   31.1
   34.1
   Plt
   147
   160
   140
   142
   Cr
   0.6
   0.7
   0.6
   0.5
   TCO2
   25
   28
   30
   30
   32
   33
   Glucose
   97
   134
   93
   92
   Other labs: PT / PTT / INR:12.8/31.1/1.1, CK / CKMB /
   Troponin-T:182/5/<0.01, ALT / AST:64/110, Alk Phos / T Bili:96/0.3,
   Amylase / Lipase:18/21, Differential-Neuts:93.0 %, Lymph:5.2 %,
   Mono:1.7 %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL,
   LDH:337 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: unchanged
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALCOHOL ABUSE
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   49 yo woman with EtOH intoxication, s/p traumatic intubation, now
   extubated and improving.  She wants to leave the hospital immediately.
   The team explained to her that she has been ill with a traumatic
   intubation and that it would be our medical advise that she remain in
   the hospital on the medical floor for an additional day.  She
   understood and was able to articulate the risks described to her of
   leaving against medical advise, demonstrating capacity to make such a
   decision.  She proceeded to sign out of the hospital against medical
   advice.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-9-29**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Discharge AMA
   Total time spent: